US08357679B2
D: (4-Aminophenyl)(4-(3-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone
(4-(3-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)(4-nitrophenyl)methanone (180 mg, 0.37 mmol), iron powder (205 mg, 3.66 mmol), 1 M hydrochloric acid (549 μL, 0.55 mmol) and isopropanol (10 mL) were stirred together, at ambient temperature, for 2 hours before being filtered and concentrated under vacuum. The residue was treated with strong cation exchange column chromatography and purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 4% methanol/dichloromethane). The product was recrystallised from benzonitrile to afford the title compound (131 mg). MS (ESI) m/z 462.1 [M+H]+

reactant | (4-(3-(1,1,1,3,3,3-Hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)(4-nitrophenyl)methanone | 0.37 mmol, 180 mg | FC(C(C(F)(F)F)(O)C=1C=C(CN2CCN(CC2)C(=O)C2=CC=C(C=C2)[N+](=O)[O-])C=CC1)(F)F | C21H19F6N3O4
reactant | hydrochloric acid | 0.55 mmol, 1 M, 549 μL | Cl | ClH
catalyst | iron | 3.66 mmol, 205 mg | [Fe] | Fe
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | (4-Aminophenyl)(4-(3-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazin-1-yl)methanone | 131 mg | NC1=CC=C(C=C1)C(=O)N1CCN(CC1)CC1=CC(=CC=C1)C(C(F)(F)F)(C(F)(F)F)O | C21H21F6N3O2
